US08227472B2
3-[3-Amino-4-(4-methyl-piperazin-1-yl)-benzoylamino]-6,6-dimethyl-2,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-5-carboxylic Acid (2,6-dichloro-phenyl)-amide (Comp. 252, A86-Z-B1)
To a solution of 3-(3-Nitro-4-fluoro-benzoylamino)-5-(2,6-dichloro-phenylcarbamoyl)-6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester (0.28 g, 0.48 mmol) in dry THF (10 mL), N-methylpiperazine (0.16 L, 1.40 mmol) was added. The reaction was stirred at room temperature for four hours, the solvent removed under reduced pressure and the crude product purified by flash chromatography (CH2Cl2/MeOH 90/10) to afford 0.20 g (yield 70%) of the title compound.

reactant | 3-(3-Nitro-4-fluoro-benzoylamino)-5-(2,6-dichloro-phenylcarbamoyl)-6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester | 0.48 mmol, 0.28 g | C(C)OC(=O)N1N=C2C(=C1NC(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O)CN(C2(C)C)C(NC2=C(C=CC=C2Cl)Cl)=O | C24H21Cl2FN6O6
reactant | N-methylpiperazine | 1.40 mmol, 0.16 L | CN1CCNCC1 | C5H12N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-[3-Amino-4-(4-methyl-piperazin-1-yl)-benzoylamino]-6,6-dimethyl-2,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-5-carboxylic Acid (2,6-dichloro-phenyl)-amide | 0.20 g, yield 70% | ClC1=C(C(=CC=C1)Cl)NC(=O)N1C(C2=NNC(=C2C1)NC(C1=CC(=C(C=C1)N1CCN(CC1)C)N)=O)(C)C | C26H30Cl2N8O2
